Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ gentleman with a history of
hypertension, hyperlipidemia, GERD, who presented with sudden
onset of chest pain/epigastric pain.  Started while he was
driving his wife and daughter to lunch on afternoon of
presentation.  Slightly worse when laying down, improves when he
sits up, also improves when he applies pressure to epigastric
area.  No cardiac history, except for congenital mitral valve
prolapse. He denies calf pain, he denies cough, hemoptysis,
shortness of breath, cough, ___ edema.  Denies difficulty
swallowing, pain with swallowing, unintentional weight loss,
unintentional weight gain.

Of note, he was treated for influenza A (diagnosis confirmed in
partners records) at the beginning of ___.  Since that he
has been generally feeling well.  He recently traveled to ___
in ___, and during this trip felt so well that he was
exercising and lifting weights.  Return 2 days prior to symptom
onset.  Denies any sick contacts overseas, denies any illness
while overseas except for one episode of diarrhea while in
___.  This resolved on its own without any interventions.

He notes 4 months of constipation, which is a change in his 
bowel
habits from normal, and he also has chronic intermittent blood 
in
his stool from his hemorrhoids.  His last colonoscopy was in
___, he had a serrated adenomatous polyp and was recommended to
have repeat colonoscopy this year.

 
Past Medical History:
- Hypertension
- HLD
- GERD
- mitral valve prolapse
- colonic polyps (serrated tubular adenomas) on cscope ___
- inguinal hernia
- hemorrhoids
 
Social History:
___
Family History:
-___ died at ___ from heart attack
-father died at ___ from myopathy
-mother still alive (age ___ w severe aortic stenosis 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 98.0 BP 164/86 HR 86 RR 18 98% RA
GENERAL: well developed, well nourished in NAD 
HEENT: sclera anicteric, MMM
CARDIAC: regular rate and rhythm, soft SEM (pt w congenital 
MVP),
?maybe rub, no gallops 
LUNGS: CTABL, no wheezes, rales, or rhonchi, normal WOB on room
air
ABDOMEN: soft, non-tender, non-distended, bowel sounds present,
palpation over epigastric area improves pain 
GU: No foley
EXTREMITIES: warm, well perfused, no cyanosis or edema
NEURO: AOx3, face symmetric, moving all limbs antigravity 

DISCHARGE PHYSICAL EXAM:
VS: 98.2 PO 129 / 85 L Lying 83 18 95 RA 
GENERAL: in no acute distress, alert and interactive
HEENT: sclera anicteric, MMM
CARDIAC: RRR, ___ systolic murmur RUSB, no rubs or gallops
LUNGS: breathing comfortably, CTAB, no wheezing or crackles
ABDOMEN: NABS, soft, nontender, nondistended, no
rebound/guarding, very mild TTP epigastric and periumbilical
region
GU: No foley
EXTREMITIES: warm, well perfused, no cyanosis or edema
NEURO: AOx3, face symmetric, moving all limbs antigravity 

 
Pertinent Results:
ADMISSION LABS:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ 04:36PM BLOOD WBC-8.2 RBC-5.00 Hgb-14.0 Hct-43.7 MCV-87 
MCH-28.0 MCHC-32.0 RDW-13.0 RDWSD-41.2 Plt ___
___ 04:36PM BLOOD Neuts-69 Lymphs-16* Monos-6 Eos-4 Baso-5* 
AbsNeut-5.66 AbsLymp-1.31 AbsMono-0.49 AbsEos-0.33 AbsBaso-0.41*
___ 04:36PM BLOOD Glucose-130* UreaN-21* Creat-0.8 Na-139 
K-3.1* Cl-101 HCO3-26 AnGap-12
___ 04:36PM BLOOD ALT-34 AST-42* AlkPhos-33* TotBili-0.3
___ 04:36PM BLOOD cTropnT-<0.01

DISCHARGE LABS:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ 06:28AM BLOOD WBC-11.3* RBC-5.07 Hgb-14.3 Hct-44.0 
MCV-87 MCH-28.2 MCHC-32.5 RDW-13.5 RDWSD-41.9 Plt ___
___ 06:00AM BLOOD Neuts-81.1* Lymphs-8.6* Monos-9.0 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-11.51* AbsLymp-1.22 
AbsMono-1.28* AbsEos-0.04 AbsBaso-0.04
___ 06:28AM BLOOD Glucose-91 UreaN-18 Creat-0.9 Na-144 
K-3.7 Cl-104 HCO3-26 AnGap-14

OTHER PERTINENT LABS:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ 05:03PM BLOOD D-Dimer-333
___ 06:00AM BLOOD CK-MB-2 cTropnT-<0.01 proBNP-380*
___ 06:00AM BLOOD RheuFac-18* ___ CRP-10.9*
___ 06:00AM BLOOD TSH-1.7
___ 06:00AM BLOOD HIV Ab-NEG
___ 07:02PM BLOOD Lactate-3.8*
___ 10:57PM BLOOD Lactate-1.5

MICROBIOLOGY:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___  URINE ***
___  BLOOD CULTURE ***

IMAGING:
~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
___ CHEST (PA & LAT) 
Mild prominence of the central pulmonary vasculature without 
overt edema.

___ CTA ABD & PELVIS  
1. No convincing evidence of colitis. 
2. Cholelithiasis without evidence of cholecystitis. 
3. Incidental note is made of a congenital horseshoe kidney with 
scarring of the left inferior lower pole. 

___ TTE 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. Mild mitral and tricuspid regurgitation.

 
Brief Hospital Course:
SUMMARY
==================================================
Mr. ___ is a ___ man with history of HTN, HLD, GERD, recent 
influenza A, and hemorrhoids, who presented with sudden onset 
and progressive epigastric pain while driving. Patient was seen 
and examined the day of discharge and plan is below.

TRANSITIONAL ISSUES:
==================================================
[] Started on ibuprofen, colchicine, pantoprazole for 1 month 
course, taper ibuprofen after ___ weeks
[] Pravastatin was held in the setting of starting colchicine, 
this should be restarted once colchicine is finished 
[] Cardiology ___ w/ 1 month 
[] Patient has horseshoe kidney

MEDICATION CHANGES:
==================================================
ADD Ibuprofen 800mg Q8H with food x 1 month, taper frequency of 
ibuprofen after ___ weeks for GI benefit
ADD Colchicine .6mg QD x 1 month
ADD pantoprazole 40mg QD x 1 month
HOLD Pravastatin until PCP ___ once colchicine is 
completed 

ACUTE ISSUES:
==================================================
# Epigastric pain
# ? Pericarditis 
The patient endorsed a history of sudden onset 
substernal/epigastric pain worse with lying down. ECG showed T 
wave inversions and Q waves in the inferior leads although these 
are noted to be chronic changes. Cardiac enzymes remained 
negative. Lipase and d-dimer were within normal limits. CRP and 
RF were slightly elevated. In the ED he was given morphine as 
well as a GI cocktail and his pain improved. There was some 
concern that he may have had a friction rub on presentation and 
his pain was very positional (relieved w/ sitting forward). His 
clinical picture, including recent influenza, was felt to be 
possibly consistent w/ pericarditis and he was started on 
high-dose NSAIDs and colchicine twice daily with resolution of 
pain after 1 dose of these medications. Additionally he also had 
an echocardiogram which was negative for pericardial effusion. 

# Elevated lactate
On initial presentation, the patient was noted to have elevated 
lactate to 3.8. He was given IV fluids and lactate decreased to 
1.5. He did not appear to be in shock and vitals remained stable 
throughout ED course and admission.

CHRONIC ISSUES:
==================================================
# Hypertension
Continued home amlodipine and chlorthalidone 

# Hyperlipidemia
Continued home rosuvastatin 

# GERD
Continued home ranitidine

# Contact/HCP: ___, wife, ___ 
# Code status: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Rosuvastatin Calcium 40 mg PO QPM 
3. Ranitidine 150 mg PO DAILY 
4. Chlorthalidone 25 mg PO DAILY 
5. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing, sob 
6. Vitamin D ___ UNIT PO DAILY 
7. Hydrocortisone Acetate Suppository ___AILY:PRN rectal 
pain 
8. Multivitamins 1 TAB PO DAILY 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Colchicine 0.6 mg PO Q12H 
RX *colchicine [Colcrys] 0.6 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*60 Tablet Refills:*0 
2.  Ibuprofen 800 mg PO Q8H 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*90 Tablet Refills:*0 
3.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
4.  Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing, sob  
5.  amLODIPine 5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Chlorthalidone 25 mg PO DAILY  
8.  Hydrocortisone Acetate Suppository ___AILY:PRN 
rectal pain  
9.  Multivitamins 1 TAB PO DAILY  
10.  Ranitidine 150 mg PO DAILY  
11.  Vitamin D ___ UNIT PO DAILY  
12. HELD- Rosuvastatin Calcium 40 mg PO QPM  This medication was 
held. Do not restart Rosuvastatin Calcium until your PCP tells 
you to, it can likely be restarted once your colchicine has 
finished

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
#Chest pain

SECONDARY:
#GERD
#HTN
#HLD
#History of influenza A

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
-You had abdominal pain / chest pain that would not go away

WHAT HAPPENED TO ME IN THE HOSPITAL?  
-You are given medicines to help with the chest pain
-You had an ultrasound of the heart which didn't show any active 
inflammation or fluid around the heart 
-You are given anti-inflammatory medications for possible 
pericarditis (inflammation of the covering of your heart) 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and ___ 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___